US05631280
Step 1: Preparation of methyl 3-nitro-4-(1-pentynyl)benzoate (29)
A solution of methyl 4-chloro-3-nitrobenzoate (0.70 g), bis(triphenylphosphine) palladium chloride (0.12 g), and 1-pentyne (2 mL) in triethylamine (12 mL) was placed in a sealed tube. The mixture was heated to 75° C. and stirred 18 h. The reaction mixture was cooled, filtered, and concentrated in vacuo. The resulting brown residue was chromatographed on silica gel with hexane/ethyl acetate 9/1 to obtain the product. NMR (300 MHz, CDCl3) δ 8.61 (1H, d, J=2 Hz), 8.16 (1H, m), 7.64 (1H, m), 3.96 (3H, s), 2.49 (2H, t, J=7 Hz), 1.66 (2H, m, J=7 Hz), 1.06 (3H, t, J=7 Hz).

reactant | methyl 4-chloro-3-nitrobenzoate | 0.70 g | ClC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | 1-pentyne | 2 mL | C#CCCC | C5H8
solvent | triethylamine | 12 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine) palladium chloride | 0.12 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | methyl 3-nitro-4-(1-pentynyl)benzoate | [N+](=O)([O-])C=1C=C(C(=O)OC)C=CC1C#CCCC | C13H13NO4
